US06703347B2
A solution of lithium diisopropylamide (2.0M solution in tetrahydrofuran/ethyl benzene/heptane, 15.32 ml, 0.0306 mol) was added dropwise to a solution of methyl(2-heptafluoropropylbenzoxazol-5-yl)acetate (11.0 g, 0.0306 mol) in tetrahydrofuran (175 ml) at −70° C. under a nitrogen atmosphere and the mixture was stirred at −70° C. for 1 hour. A solution of methyl iodide (39.1 g, 0.275 mol) in tetrahydrofuran (25 ml) was added dropwise and the mixture was stirred at −70° C. for a further 1 hour. The cooling bath was removed and the mixture was allowed to warm to room temperature over a period of 3 hours. The reaction was quenched with water, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo to give methyl 2-(2-heptafluoropropylbenzoxazol-5-yl)propionate (11.6 g) as a reddish oil, which was used without further purification in the next step.

reactant | lithium diisopropylamide | 0.0306 mol, 2.0M, 15.32 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl(2-heptafluoropropylbenzoxazol-5-yl)acetate | 0.0306 mol, 11.0 g | COC(CC=1C=CC2=C(N=C(O2)C(C(C(F)(F)F)(F)F)(F)F)C1)=O | C13H8F7NO3
reactant | methyl iodide | 0.275 mol, 39.1 g | CI | CH3I
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | methyl 2-(2-heptafluoropropylbenzoxazol-5-yl)propionate | 11.6 g | FC(C(C=1OC2=C(N1)C=C(C=C2)C(C(=O)OC)C)(F)F)(C(F)(F)F)F | C14H10F7NO3
